US07678818B2
Preparation of 2-methylamino-5-phenyl-nicotinic acid ethyl ester
A mixture of 5-bromo-2-methylamino-nicotinic acid ethyl ester (100 mg, 0.39 mmol), potassium carbonate (160 mg, 1.16 mmol), dichloro[1,1′-bis(diphenylphosphine)ferrocene]palladium(II); (28 mg, 39 μmol) and phenylboronic acid (146 mg, 1.16 mmol), 1,4-dioxane (0.9 mL), and water (0.11 mL) was heated at reflux for 3 h, then partitioned between ethyl acetate and sat. aq. ammonium chloride solution. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) afforded the title compound (44 mg, 44%). Yellow liquid, MS (EI): 256.2 (M+).

reactant | 5-bromo-2-methylamino-nicotinic acid ethyl ester | 0.39 mmol, 100 mg | C(C)OC(C1=C(N=CC(=C1)Br)NC)=O | C9H11BrN2O2
reactant | potassium carbonate | 1.16 mmol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 1.16 mmol, 146 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1,4-dioxane | 0.9 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.11 mL | O | H2O
product | 2-methylamino-5-phenyl-nicotinic acid ethyl ester | 44 mg, 44% | C(C)OC(C1=C(N=CC(=C1)C1=CC=CC=C1)NC)=O | C15H16N2O2
